US07932250B2
4-(4-Nitrophenyl)-2-piperazinone
To a solution of 1.275 g (9.04 mmol) of 4-fluoronitrobenzene in 30 mL of N,N-dimethylformamide were added 1.87 g (13.56 mmol) of potassium carbonate and 905 mg (9.04 mmol) of piperazine-2-one, and the mixture was stirred for 1 hour at 130° C. and for 1 hour at 140° C. The reaction mixture was cooled to room temperature and diluted with chloroform, then, insoluble substances were removed off by filtration. The filtrate was condensed under reduced pressure and the resulting solid was washed with ethanol to give 859 mg (43%) of the title compound.

reactant | 4-fluoronitrobenzene | 9.04 mmol, 1.275 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 13.56 mmol, 1.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperazine-2-one | 9.04 mmol, 905 mg | N1C(CNCC1)=O | C4H8N2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-Nitrophenyl)-2-piperazinone | 859 mg, 43% | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(NCC1)=O | C10H11N3O3
